US07214681B2
A stirred suspension of AlCl3 (12.90 g, 96.8 mmol) in anhydrous CH2Cl2 (135 mL) was treated portionwise at 0° C. with ethyl chlorooxoacetate (8.5 mL, 76.0 mmol). Cyclopropyl phenyl sulfide (10.0 mL, 70.0 mmol) was added to the mixture dropwise over 1 h while maintaining the reaction temperature below 10° C. The mixure was allowed to warm to 20° C., before being stirred for an additional 70 min. Ice cold H2O (35 mL) was added on cooling to 0° C., then the mixture was stirred further for 10 min. The CH2Cl2 layer was separated, then the aqueous layer was extracted with more CH2Cl2 (2×50 mL). The combined organic layers were dried (MgSO4), filtered and concentrated to give ethyl (4-cyclopropylsulfanylphenyl)-oxoacetate: RTB=1.74 min. LHMDS (3.7 mL of a 1.0M solution in THF, 3.7 mmol) was added to a stirred suspension of triphenyl(tetrahydropyran-4-ylmethyl)-phosphonium iodide (Preparation 21, 1.82 g, 3.7 mmol) in anhydrous THF (5.6 mL) at 0° C. After 1 h, a solution of ethyl (4-cyclopropylsulfanylphenyl)oxoacetate (0.78 g, 3.1 mmol) in anhydrous THF (4 mL) was added over 5 min. The mixture was stirred at 0° C. for 1 h, before being allowed to warm to 20° C. over 16 h. H2O (7 mL) was added on cooling down to 0° C. 1M HCl was added to adjust the pH to 6, then the mixture was stirred for 1 h at 20° C. The THF was removed in vacuo, then Et2O (35 mL) was added. The mixture was stirred for 30 min and filtered, washing with Et2O. The aqueous layer was separated and extracted with Et2O (3×10 mL). The combined organic extracts were washed with brine (20 mL), dried, filtered, and concentrated. Flash chromatography (IH—CH2Cl2, 2:1 to 1:1, followed by THF—CH2Cl2, 1:99) yielded ethyl 2-(4-cyclopropylsulfanylphenyl)-3-(tetrahydropyran-4-yl)acrylate: m/z (ES+)=333.2 [M+H]+. A stirred solution of this thioether (609 mg, 1.83 mmol) in CH2Cl2 (35 mL) was treated with a solution of mCPBA (992 mg of 65% pure, 3.74 mmol) in CH2Cl2 (15 mL). After 16 h, saturated aqueous NaHCO3 (25 mL) was added, then stirring was continued for 5 min. The layers were separated, then the aqueous phase was extracted with CH2Cl2 (20 mL). The combined organic layers were washed with saturated aqueous NaHCO3 (25 mL), H2O (25 mL), and brine (25 mL), before being dried (MgSO4). Filtration and solvent evaporation gave ethyl 2-(4-cyclopropanesulfonylphenyl)-3-(tetrahydropyran-4-yl)acrylate: m/z (ES+)=382.2 [M+NH4]+. A solution of this compound (667 mg, 1.83 mmol) in EtOAc (60 mL) was treated with Pd (10% on C, 424 mg, 0.39 mmol). The reaction mixture was stirred under a H2 atmosphere for 3d, before being filtered through Celite. The Celite was washed with EtOAc (100 mL), then the combined filtrates were concentrated to give ethyl 2-(4-cyclopropanesulfonylphenyl)-3-(tetrahydropyran-4-yl)propionate: RF (CH2Cl2-THF, 30:1)=0.56. A solution of this ester (664 mg, 1.81 mmol) in THF-H2O (3:1, 20 mL) was stirred with LiOH.H2O (168 mg, 4.00 mmol) for 23 h. The THF was evaporated off under reduced pressure, then the remainder was diluted with H2O (10 mL). The mixture was washed with Et2O (2×20 mL), before being acidified with 2M HCl (5 mL) to pH1. The remainder was extracted with EtOAc (3×20 mL). The combined organic extracts were washed with brine (20 mL), dried (MgSO4), filtered, and evaporated to give the title compound: m/z (ES+)=694.4 [2M+NH4]+.

reactant | LHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | triphenyl(tetrahydropyran-4-ylmethyl)-phosphonium iodide | 3.7 mmol, 1.82 g | [I-].C1(=CC=CC=C1)[P+](CC1CCOCC1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | ethyl (4-cyclopropylsulfanylphenyl)oxoacetate | 3.1 mmol, 0.78 g | C1(CC1)SC1=CC=C(C=C1)C(C(=O)OCC)=O | C13H14O3S
reactant | HCl | 1M | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 5.6 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | H2O | 7 mL | O | H2O
product | ethyl 2-(4-cyclopropylsulfanylphenyl)-3-(tetrahydropyran-4-yl)acrylate | C1(CC1)SC1=CC=C(C=C1)C(C(=O)OCC)=CC1CCOCC1 | C19H24O3S
